US08030499B2
Synthesis of 5-chloro-3-(2-methoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-3-[2-oxo-2-(4-pyridin-4-yl piperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one hydrochloride 1.5 hydrate
With 300 mg of 5-chloro-3-(2-methoxyphenyl)-3-[2-oxo-2-(4-pyridin-4-yl piperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one, which is the compound described in Example 1A of the brochure Publication No. WO03/008407, and 201 mg of 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride as starting materials, 382 mg of a free form of the title compound (pale yellow amorphous) was obtained by a similar method to Example 2. To a solution of 360 mg of the obtained free form in CHCl3 (10 ml) was added a solution of 4 mol/L hydrochloric acid/EtOAc (0.62 ml), and the reaction mixture was stirred at room temperature for 3 hours. Thereafter, the solvent was evaporated under reduced pressure, IPA (5 ml) was added to the obtained residue, then the mixture stirred for 30 minutes while heating at 90° C. external temperature, then, the mixture was stirred at room temperature for 62 hours. The precipitated solid was collected by filtration to obtain 375 mg of the title compound (colorless solid).

reactant | 5-chloro-3-(2-methoxyphenyl)-3-[2-oxo-2-(4-pyridin-4-yl piperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one | 300 mg | ClC=1C=C2C(C(NC2=CC1)=O)(CC(N1CCN(CC1)C1=CC=NC=C1)=O)C1=C(C=CC=C1)OC | C26H25ClN4O3
reactant | 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride | 201 mg | COC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C8H6ClF3O4S
product | 5-chloro-3-(2-methoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-3-[2-oxo-2-(4-pyridin-4-yl piperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one hydrochloride | Cl.ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC(F)(F)F)=O)(CC(N1CCN(CC1)C1=CC=NC=C1)=O)C1=C(C=CC=C1)OC | InChI=1S/C34H30ClF3N4O7S.ClH/c1-47-24-8-10-30(29(20-24)49-34(36,37)38)50(45,46)42-27-9-7-22(35)19-26(27)33(32(42)44,25-5-3-4-6-28(25)48-2)21-31(43)41-17-15-40(16-18-41)23-11-13-39-14-12-23;/h3-14,19-20H,15-18,21H2,1-2H3;1H
